US08017602B2
Step i) (R)—N-(2,2-Dimethoxyethyl)-N-(hexan-2-yl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide
The subtitled compound (234 mg) was prepared using a similar method to that described in Preparation 3 Step iii) from 3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 2a, Step i)] and (R)—N-(2,2-dimethoxyethyl)hexan-2-amine [Preparation 13] and the reaction mixture was stirred for 2 h. The elution gradient used was 30-50% ethyl acetate in isohexane. 1H NMR (400 MHz, CDCl3) δ 7.75 (s, 1H), 7.62 (s, 1H), 7.36-7.24 (m, 3H), 7.11-7.05 (m, 1H), 4.69-4.63 and 4.41-4.37 (m, 1H), 4.38-4.31 and 3.85-3.76 (m, 1H), 3.94 (s, 3H), 3.85-3.76 (m, 2H), 3.74-3.65 (m, 2H), 3.43-3.37 (m, 6H), 3.33-3.25 (m, 1H), 3.22-3.14 (m, 1H), 2.94-2.85 (m, 2H), 2.80-2.57 (m, 2H), 1.59-1.12 (m, 9H), 0.93-0.85 (m, 3H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | CN1N=CC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C15H18N2O3
reactant | (R)—N-(2,2-dimethoxyethyl)hexan-2-amine | COC(CN[C@H](C)CCCC)OC | C10H23NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isohexane | CCCC(C)C | C6H14
product | (R)—N-(2,2-Dimethoxyethyl)-N-(hexan-2-yl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 234 mg | COC(CN(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)[C@H](C)CCCC)OC | C25H39N3O4
